*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*								            				    *
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating	        *
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.						                        *
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models        *
* without prior notice.                                         *
*                                                               *
* Note: The model doesn't take into account the drain, gate,    *
* source inductances.If these contributions have to be          *
* considered it is possible include the inductors externally.   *
* For this package the values can be estimated as follow        *
*                                                               *
* Ldrain= 1nH ,Lsource=2nH and Lgate=2.5nH                      *
*****************************************************************
.SUBCKT stl130n6f7_V2_unit drain gate source 

*****************************************************************
E1    Tj     val_T      VALUE={TEMP}
R1   val_T   0      1m

.param Areacap={1} Area={1} GFS={1}

*****************************************************************
Rtk Tj 0 1e010
Rtk1 Tj 0 1e010
*****************************************************************
VLd drain d1k 0
V_Read d1k d1 0
VLs source ss 0
VLG gate g2 0

rg1 g2 g {rg}
.PARAM  rg=1.2

*****************************************************************
.PARAM  Vth0=2.8 KpSat0=70  KpLin0=70    
.PARAM  rs=0.01m drs=-1.5 
.PARAM  Vthx=2.35m KSat=-0.7   KLin=-0.5    
.PARAM  lambda=0.020  rdrain={0.784m/Area}  
.PARAM  a=1 b=1 Rx=1.2 rpa=1u unt=-3.2
*****************************************************************

.FUNC vth1(x) {vth0-vthx*(x-27)}
.FUNC kpsat(x) {kpsat0*((x+273)/300)**(ksat)}
.FUNC kplin(x) {kplin0*((x+273)/300)**(klin)}

*****************************************************************
***********************************GRmos*************************

V2xx  d1 22xxx 0
E2xxx 22xxx d VALUE={R2(I(V2xx),V(TJ))}
.FUNC R2(I1,T2) {I1*(rdrain+rpa*((I1**a))**Rx)/((b*((T2+273)/300)**(unt))*Area)}

****************************** GRS *******************************
r_grs ss s 1k
V1xx    11xxx ss 0
E1xxx 11xxx s  VALUE={R1(LIMIT(I(V1xx),-1MEG,1MEG),V(TJ))}
.FUNC R1(I1,T1)   {-(I1)*((rs/(Area*(((T1+273)/300)**(drs)))))}

******* gmos ******

Gmos d s value {0.9*GFS*(IF(V(d,s)>0,(IF(v(g,s)<vth1(V(TJ)),0,
+(IF((V(d,s)<(v(g,s)-vth1(V(TJ)))*kpsat(v(TJ))/kplin(v(TJ))),(1+LAMBDA*v(d,s))*kplin(v(TJ))/2*v(d,s)*
+(2*(v(g,s)-vth1(V(TJ)))-kplin(v(TJ))/kpsat(v(TJ))*v(d,s)),
+(1+LAMBDA*v(d,s))*kpsat(v(TJ))/2*(v(g,s)-vth1(V(TJ)))**2)))),-(IF(v(g,s)<vth1(V(TJ)),0,
+(IF((V(s,d)<(v(g,s)-vth1(V(TJ)))*kpsat(v(TJ))/kplin(v(TJ))),(1+LAMBDA*v(s,d))*kplin(v(TJ))/2*v(s,d)*
+(2*(v(g,s)-vth1(V(TJ)))-kplin(v(TJ))/kpsat(v(TJ))*v(s,d)),
+(1+LAMBDA*v(s,d))*kpsat(v(TJ))/2*(v(g,s)-vth1(V(TJ)))**2))))))} 

*****************************************************************
************************** Capacitance **************************

**** CGS *******
CGS source g {2600p}
RCGS source g 1000meg 
*******************
 
***** CMiller******
Edev dev1 0 value {v(d,g)}
c_dev1 dev1 dev2 1E-12
R_dev dev2 dev3 1E-06
V_miller dev3 0 0 
G_miller d g  value ={Areacap*1*v(alfa)*i(V_miller)*1E12}
**********************************************************
**********************************************************
Rcap alfa 0 1E03
Ecap alfa 0 TABLE ={V(d,g)}
+(-0.1,750p)
+(0.1,1199.18p) 
+(0.2,1159.57p) 
+(0.5,1006.92p) 
+(1,825.07p) 
+(2,626.96p) 
+(3,524.26p) 
+(5,414p) 
+(7,348.52p) 
+(10,282.46p) 
+(15,206.97p) 
+(20,157.4p) 
+(25,116.65p) 
+(30,84.83p) 
+(35,56.88p) 
+(40,38.61p) 
+(45,32.9p) 
+(50,31.03p) 
+(55,30p) 
+(60,30.31p) 
 
  
************************* COSS ****************************

Edevc dev1c 0 value {v(d,s)}
c_dev1c dev1c dev2c 1E-12
R_devc dev2c dev3c 1m
V_millerc dev3c 0 0 
G_coss d s  value ={1*Areacap*v(alfa2)*i(V_millerc)*1E12}
************************************************************
Rcap2 alfa2 0 1E03
Ecap2 alfa2 0 TABLE ={V(d,s)}
+(0.1,3782.73p) 
+(0.2,3680.42p) 
+(0.5,3333.6p) 
+(1,2976.06p) 
+(2,2604.79p) 
+(3,2404.43p) 
+(5,2164.95p) 
+(7,2006.1p) 
+(10,1830.3p) 
+(15,1604.95p) 
+(20,1435.6p) 
+(25,1277.66p) 
+(30,1125.56p) 
+(35,953.02p) 
+(40,764.37p) 
+(45,675.55p) 
+(50,641.18p) 
+(55,622.27p) 
+(60,611.32p) 
 
  
********************
V_sense2  sx s  0
**************************** BV ********************************

.PARAM RAV=0.0042 BVDSS=1
G_bvdss   d1bvdss1   ss  VALUE={I_BVDSS(V(d1bvdss1,ss),v(Tj))}
R_GBDSS d1bvdss1 0 1E10
.FUNC  I_BVDSS(z,k1) {(exp(min(-175+z/(bvd(k1)),7))-0p)}
.FUNC bvd(k) {0.34*BVDSS+0.0018*k}
R_bvdss d1 d1bvdss1 {RAV}

**************************** VF ********************************

.PARAM resdiodo={1.80m/Area}
V_diodo d1zd d1z 0
G_diode source d1zd VALUE={I_diode(V(source,d1zd),v(Tj))}
R_x source d1zd 1E9
.FUNC I_diode(z3,k3) {(exp(min(-15+z3/(did(k3)),7))-0)}
.FUNC did(k4) {0.0424-34E-06*k4}
R_G_R_didd d1 d1z {resdiodo}

************************** Recovery diode **********************

E_E001 ba 0 VALUE {-I(V_diodo)}
R_R002 aa ba 1k
C aa 0 10E-12
.param irrm=2.05e4

****NONTOCC****
R_edep drain d_dedep 30
E_Eds d_dedep edep VALUE {-V(aa,0)*irrm*Area}
C_Cds edep source {1p}
****************************************************************

.ENDS stl130n6f7_V2_unit

.SUBCKT stl130n6f7_v3_unit drain gate source Tj Tcase

*****************************************************************
*E1	Tj	Val_T	VALUE={TEMP}
*R1	Val_T	0	1E-03

.param Areacap={1} Area={1} GFS={1}

*****************************************************************
Rtk Tj 0 1e010
Rtk1 Tj 0 1e010
*****************************************************************
VLd drain d1k 0
V_Read d1k d1 0
VLs source ss 0
VLG gate g2 0

rg1 g2 g {rg}
.PARAM  rg=1.2

*****************************************************************
.PARAM  Vth0=2.8 KpSat0=70  KpLin0=70    
.PARAM  rs=0.01m drs=-1.5 
.PARAM  Vthx=2.35m KSat=-0.7   KLin=-0.5    
.PARAM  lambda=0.020  rdrain={0.784m/Area}  
.PARAM  a=1 b=1 Rx=1.2 rpa=1u unt=-3.2
*****************************************************************

.FUNC vth1(x) {vth0-vthx*(x-27)}
.FUNC kpsat(x) {kpsat0*((x+273)/300)**(ksat)}
.FUNC kplin(x) {kplin0*((x+273)/300)**(klin)}

*****************************************************************
***********************************GRmos*************************

V2xx  d1 22xxx 0
E2xxx 22xxx d VALUE={R2(I(V2xx),V(TJ))}
.FUNC R2(I1,T2) {I1*(rdrain+rpa*((I1**a))**Rx)/((b*((T2+273)/300)**(unt))*Area)}

****************************** GRS *******************************
r_grs ss s 1k
V1xx    11xxx ss 0
E1xxx 11xxx s  VALUE={R1(LIMIT(I(V1xx),-1MEG,1MEG),V(TJ))}
.FUNC R1(I1,T1)   {-(I1)*((rs/(Area*(((T1+273)/300)**(drs)))))}

******* gmos ******

Gmos d s value {0.9*GFS*(IF(V(d,s)>0,(IF(v(g,s)<vth1(V(TJ)),0,
+(IF((V(d,s)<(v(g,s)-vth1(V(TJ)))*kpsat(v(TJ))/kplin(v(TJ))),(1+LAMBDA*v(d,s))*kplin(v(TJ))/2*v(d,s)*
+(2*(v(g,s)-vth1(V(TJ)))-kplin(v(TJ))/kpsat(v(TJ))*v(d,s)),
+(1+LAMBDA*v(d,s))*kpsat(v(TJ))/2*(v(g,s)-vth1(V(TJ)))**2)))),-(IF(v(g,s)<vth1(V(TJ)),0,
+(IF((V(s,d)<(v(g,s)-vth1(V(TJ)))*kpsat(v(TJ))/kplin(v(TJ))),(1+LAMBDA*v(s,d))*kplin(v(TJ))/2*v(s,d)*
+(2*(v(g,s)-vth1(V(TJ)))-kplin(v(TJ))/kpsat(v(TJ))*v(s,d)),
+(1+LAMBDA*v(s,d))*kpsat(v(TJ))/2*(v(g,s)-vth1(V(TJ)))**2))))))} 

*****************************************************************
************************** Capacitance **************************

**** CGS *******
CGS source g {2600p}
RCGS source g 1000meg 
*******************
 
***** CMiller******
Edev dev1 0 value {v(d,g)}
c_dev1 dev1 dev2 1E-12
R_dev dev2 dev3 1E-06
V_miller dev3 0 0 
G_miller d g  value ={Areacap*1*v(alfa)*i(V_miller)*1E12}
**********************************************************
**********************************************************
Rcap alfa 0 1E03
Ecap alfa 0 TABLE ={V(d,g)}
+(-0.1,750p)
+(0.1,1199.18p) 
+(0.2,1159.57p) 
+(0.5,1006.92p) 
+(1,825.07p) 
+(2,626.96p) 
+(3,524.26p) 
+(5,414p) 
+(7,348.52p) 
+(10,282.46p) 
+(15,206.97p) 
+(20,157.4p) 
+(25,116.65p) 
+(30,84.83p) 
+(35,56.88p) 
+(40,38.61p) 
+(45,32.9p) 
+(50,31.03p) 
+(55,30p) 
+(60,30.31p) 
 
  
************************* COSS ****************************

Edevc dev1c 0 value {v(d,s)}
c_dev1c dev1c dev2c 1E-12
R_devc dev2c dev3c 1m
V_millerc dev3c 0 0 
G_coss d s  value ={1*Areacap*v(alfa2)*i(V_millerc)*1E12}
************************************************************
Rcap2 alfa2 0 1E03
Ecap2 alfa2 0 TABLE ={V(d,s)}
+(0.1,3782.73p) 
+(0.2,3680.42p) 
+(0.5,3333.6p) 
+(1,2976.06p) 
+(2,2604.79p) 
+(3,2404.43p) 
+(5,2164.95p) 
+(7,2006.1p) 
+(10,1830.3p) 
+(15,1604.95p) 
+(20,1435.6p) 
+(25,1277.66p) 
+(30,1125.56p) 
+(35,953.02p) 
+(40,764.37p) 
+(45,675.55p) 
+(50,641.18p) 
+(55,622.27p) 
+(60,611.32p) 
 
  
********************
V_sense2  sx s  0
**************************** BV ********************************

.PARAM RAV=0.0042 BVDSS=1
G_bvdss   d1bvdss1   ss  VALUE={I_BVDSS(V(d1bvdss1,ss),v(Tj))}
R_GBDSS d1bvdss1 0 1E10
.FUNC  I_BVDSS(z,k1) {(exp(min(-175+z/(bvd(k1)),7))-0p)}
.FUNC bvd(k) {0.34*BVDSS+0.0018*k}
R_bvdss d1 d1bvdss1 {RAV}

**************************** VF ********************************

.PARAM resdiodo={1.80m/Area}
V_diodo d1zd d1z 0
G_diode source d1zd VALUE={I_diode(V(source,d1zd),v(Tj))}
R_x source d1zd 1E9
.FUNC I_diode(z3,k3) {(exp(min(-15+z3/(did(k3)),7))-0)}
.FUNC did(k4) {0.0424-34E-06*k4}
R_G_R_didd d1 d1z {resdiodo}

************************** Recovery diode **********************

E_E001 ba 0 VALUE {-I(V_diodo)}
R_R002 aa ba 1k
C aa 0 10E-12
.param irrm=2.05e4

****NONTOCC****
R_edep drain d_dedep 30
E_Eds d_dedep edep VALUE {-V(aa,0)*irrm*Area}
C_Cds edep source {1p}

***********************************************************
***************  Thermal Net Junction Case  ***************
***********************************************************
RDUMMY TJ TCASE 1E9
G_Power 0 TJ VALUE ={I(V_read)*v(drain,source)}

.param Kth=3.4

Rth1 Tj Th1		{8.5E-03*Kth}
Rth2 Th1 Th2	{11E-03*Kth}
Rth3 Th2 Th3	{30E-03*Kth}
Rth4 Th3 Th4	{70E-03*Kth}
Rth5 Th4 Tcase	{230E-03*Kth}

Cth1 Tj 0		{0.75E-03/Kth}
Cth2 Th1 0		{1E-03/Kth}
Cth3 Th2 0		{6E-03/Kth}
Cth4 Th3 0		{7E-03/Kth}
Cth5 Th4 0		{11m/Kth}
Cth6 Tcase 0	{11m/Kth} 
*****************************************************************

.ENDS stl130n6f7_v3_unit

.SUBCKT STL130N6F7 S1 S2 S3 G D
R1 S1 S2 0.1m
R2 S1 S3 0.1m
X1 D G S1 stl130n6f7_V2_unit
.ENDS STL130N6F7
